US04169150
2-Amino-2',5-dichlorobenzophenone (200 mg, 0.752 millimole) and 3-methyl-1-phthalimidohexane-2,5-dione (225 mg, 0.823 millimole) were dissolved in 10 ml of benzene, and 20 mg of p-toluenesulfonic acid was added. The mixture was heated under reflux for 4 hours, and 2 ml of N,N-dimethylformamide was added. The benzene was evaporated under reduced pressure, and 8 ml of ethanol and 0.3 ml of hydrazine hydrate were added. The mixture was heated under reflux for 30 minutes. The ethanol was evaporated under reduced pressure, and 25 ml of benzene was added. The mixture was heated under reflux for 5 minutes. After cooling, the solid was separated by filtration. The filtrate was washed with water and an aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the concentrate was chromatographed on silica gel. The column was first eluted with benzene to recover unchanged 2-amino-2',5-dichlorobenzophenone, and then with benzene-ethyl acetate (49:1) to afford 145 mg of 8-chloro-6-(2-chlorophenyl)-1,3-dimethyl-4H-pyrrolo[1,2-a][1,4]benzodiazepine as yellow crystals in a yield of 54%. The product showed the same spectral data as those of the compound obtained in Example 32.

reactant | 2-Amino-2',5-dichlorobenzophenone | 0.752 millimole, 200 mg | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C13H9Cl2NO
reactant | 3-methyl-1-phthalimidohexane-2,5-dione | 0.823 millimole, 225 mg | CC(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)CC(C)=O | C15H15NO4
reactant | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 8-chloro-6-(2-chlorophenyl)-1,3-dimethyl-4H-pyrrolo[1,2-a][1,4]benzodiazepine | 145 mg, yield of 54% | ClC=1C=CC2=C(C(=NCC=3N2C(=CC3C)C)C3=C(C=CC=C3)Cl)C1 | C20H16Cl2N2
